US09227923B2
N,N-dimethylformamide (3 ml) was heated to 65° C. and added with tert-butyl nitrite (0.15 g). To the solution, an N,N-dimethylformamide solution (2 ml) in which 3-amino-N-[2-ethyl-4-(1,1,1,2,3, 3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl) benzamide (0.5 g) has been dissolved was slowly added dropwise, while maintaining the temperature of 65° C. After confirming that no more gas is generated, the mixture was adjusted to room temperature and added with a mixture including 2N hydrochloric acid and a small amount of ice. The mixture was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with 2N hydrochloric acid, and dried over magnesium sulfate. After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was purified by column chromatography to obtain N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl)benzamide (0.31 g, yield 61%).

reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | tert-butyl nitrite | 0.15 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 3-amino-N-[2-ethyl-4-(1,1,1,2,3, 3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl) benzamide | 0.5 g | NC=1C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=CC1N1N=CN=C1 | C21H18F7N5O
solvent | water | O | H2O
product | N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylphenyl]-4-(1H-1,2,4-triazol-1-yl)benzamide | 0.31 g, yield 61% | C(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(C1=CC=C(C=C1)N1N=CN=C1)=O | C21H17F7N4O
